US07622471B2
1) 3-Oxopiperazine-1-carboxylic acid tert-butyl ester
Triethylamine (3.9 mL) and di-tert-butyl dicarbonate (6.31 g) were added to 2-oxopiperazine (2.61 g) in a mixture of tetrahydrofuran (40 mL) and methanol (50 mL) at room temperature, followed by stirring for 3 hours. The solvent was evaporated under reduced pressure. To the residue, diethyl ether was added, and the precipitated solid was recovered by filtration, to thereby give 3-oxopiperazine-1-carboxylic acid tert-butyl ester (4.54 g, 87%).

reactant | Triethylamine | 3.9 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 6.31 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 2-oxopiperazine | 2.61 g | O=C1NCCNC1 | C4H8N2O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | methanol | 50 mL | CO | CH4O
product | 3-Oxopiperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(NCC1)=O | C9H16N2O3
